US07273877B2
Ethyl 6-chloro-4-(2-fluoro-4-methylanilino)nicotinate) was dissolved in CHCl3 and reacted with Me2SO4, followed by triethylamine, AcOH and EtOH as described for example 33, step B. Purification by recrystallisation (EtOAc/Hexane) afforded ethyl 4-(2-fluoro-4-methylanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate (84%); m.p. (EtOAc/Hexane) 148-150° C. 1H NMR [400 MHz, CDCl3] δ 9.17 (br s, 1H), 8.20 (s, 1H), 7.27-7.21 (m, 1H), 6.99-6.92 (m, 2H), 5.76 (s, 1H), 4.35 (q, J=7.1 Hz, 2H), 3.53 (s, 3H), 2.35 (s, 3H), 1.39 (t, J=7.1 Hz, 3H). LCMS (ACPI−) 303 (100%). Anal. Calcd for C16H17FN2O3: C, 63.2; H, 5.6; N, 9.2. Found C, 63.1; H, 5.7; N, 9.2.

reactant | Ethyl 6-chloro-4-(2-fluoro-4-methylanilino)nicotinate | ClC1=NC=C(C(=O)OCC)C(=C1)NC1=C(C=C(C=C1)C)F | C15H14ClFN2O2
reactant | Me2SO4 | COS(=O)(=O)OC | C2H6O4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | AcOH | CC(=O)O | C2H4O2
reactant | EtOH | CCO | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-(2-fluoro-4-methylanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 84% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)OCC)C=CC(=C1)C | C16H17FN2O3
